US07807709B2
A. (3R*,4R*)-3-({Cyclopropyl-[2-(3-nitro-phenyl)-acetyl]-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
At 0° C. HBTU (426 mg, 1.12 mmol) is added to a solution of 3-nitrophenylacetic acid (187 mg, 1.03 mmol) in CH3CN (10 mL) and the resulting solution is stirred for 10 min. Then a solution of (3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.2 g, 0.375 mmol). (500 mg, 0.94 mmol) and triethylamine (1.04 mL, 7.5 mmol) in CH3CN (10 mL) is added at 0° C. and the reaction mixture is stirred at RT for another 2 h. For workup a sat. solution of NaHCO3 is added and the mixture is extracted with ethyl acetate. Washing of the combined extracts with brine, drying (Na2SO4), filtration and evaporation of the solvent affords the crude product which is purified by flash chromatography on silica gel (eluent: CH2Cl2 to CH2Cl2/MeOH 9:1) to give the title compound. MS (LC-MS): 597.0 [M+H-Boc]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mumin): 6.47 min.

reactant | HBTU | 1.12 mmol, 426 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-nitrophenylacetic acid | 1.03 mmol, 187 mg | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)O | C8H7NO4
reactant | (3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.375 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CNC1CC1 | C29H47N3O6
reactant | triethylamine | 7.5 mmol, 1.04 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | (3R*,4R*)-3-({Cyclopropyl-[2-(3-nitro-phenyl)-acetyl]-amino}-methyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C(CC1=CC(=CC=C1)[N+](=O)[O-])=O)C1CC1 | C37H52N4O9
